US07504411B2
To a solution of 3-(4-(4-methylpiperazin-1-yl)-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (2.0 g, 5.56 mmol) in methanol (20 mL) was added 4N hydrochloric acid in ethyl acetate (20 mL) at room temperature. After stirring for 1 h, the resulting suspension was concentrated in vacuo. The residue was washed with ethyl acetate to furnish 3-(4-(4-methylpiperazin-1-yl)-phenyl)-piperidine trihydrochloride (1.84 g, 4.99 mmol, 90%) as white crystals.

reactant | 3-(4-(4-methylpiperazin-1-yl)-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 5.56 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)N1CCN(CC1)C | C21H33N3O2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-(4-methylpiperazin-1-yl)-phenyl)-piperidine trihydrochloride | 4.99 mmol, 1.84 g, 90% | Cl.Cl.Cl.CN1CCN(CC1)C1=CC=C(C=C1)C1CNCCC1 | InChI=1S/C16H25N3.3ClH/c1-18-9-11-19(12-10-18)16-6-4-14(5-7-16)15-3-2-8-17-13-15;;;/h4-7,15,17H,2-3,8-13H2,1H3;3*1H
